US06451814B1
4-[Acetyl-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenyl)-amino]-piperidine-1-carboxylic Acid Octylamide
4-{4-[2-({(2S)-3-[4-(Benzyloxy)phenoxy]-2-hydroxypropyl}amino)-ethyl]anilino}-N-octyl-1-piperidinecarboxamide (0.1 g, 0.15 mmol) was dissolved in ethanol (20 mL) and 10% palladium on carbon (0.1 g) added. The mixture was shaken on a Parr apparatus overnight under 50 psi hydrogen. The mixture was cooled to ambient temperature, filtered through a Celite pad, and the solvent removed in vacuo to yield the title compound (eluant: 5:1 chloroform-methanol) (0.033 g, 0.05 mmol)

reactant | 4-{4-[2-({(2S)-3-[4-(Benzyloxy)phenoxy]-2-hydroxypropyl}amino)-ethyl]anilino}-N-octyl-1-piperidinecarboxamide | 0.15 mmol, 0.1 g | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCCCCCCCC)C=C2)O)C=C1 | C38H54N4O4
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 4-[Acetyl-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenyl)-amino]-piperidine-1-carboxylic Acid Octylamide | 0.05 mmol, 0.033 g | C(CCCCCCC)NC(=O)N1CCC(CC1)N(C1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O)C(C)=O | C33H50N4O5
